* Created by KLayout
*** My special header ***

* cell OSS_ESD_5V_DIO
* pin HIZ
* pin OUT
* pin PAD
* pin VDD
* pin VSS
.SUBCKT OSS_ESD_5V_DIO HIZ OUT PAD VDD VSS
* device instance $1 m0 *1 34.6,108.3 PMOS
XM$1 \$I2 HIZ VDD VDD PMOS L=1u W=5.2u AS=14.56p AD=7.8p PS=16u PD=8.2u
* device instance $2 m0 *1 34.6,104.3 PMOS
XM$2 VDD \$I2 \$I5 VDD PMOS L=1u W=5.2u AS=7.8p AD=7.8p PS=8.2u PD=8.2u
* device instance $3 m0 *1 34.6,100.3 PMOS
XM$3 \$I5 \$I3 VDD VDD PMOS L=1u W=5.2u AS=7.8p AD=34.84p PS=8.2u PD=25.8u
* device instance $4 m0 *1 42.4,94.3 PMOS
XM$4 VDD \$I5 \$10 VDD PMOS L=1u W=20.8u AS=34.84p AD=58.24p PS=25.8u PD=47.2u
* device instance $5 m0 *1 -37.2,102.5 PMOS
XM$5 \$I4 HIZ \$I6 VDD PMOS L=1u W=10.4u AS=29.12p AD=6.24p PS=26.4u PD=11.6u
* device instance $6 m0 *1 -37.2,100.3 PMOS
XM$6 \$I6 \$I3 VDD VDD PMOS L=1u W=10.4u AS=6.24p AD=40.56p PS=11.6u PD=25.8u
* device instance $7 m0 *1 -42.4,94.3 PMOS
XM$7 VDD \$I4 \$9 VDD PMOS L=1u W=20.8u AS=40.56p AD=58.24p PS=25.8u PD=47.2u
* device instance $8 m0 *1 -46.4,108.3 PMOS
XM$8 \$I3 OUT VDD VDD PMOS L=1u W=5.2u AS=14.56p AD=22.36p PS=16u PD=19u
* device instance $9 m0 *1 -13.3,108.3 NMOS
XM$9 \$I3 OUT VSS VSS NMOS L=1u W=3.4u AS=9.52p AD=5.1p PS=12.4u PD=6.4u
* device instance $10 m0 *1 -13.3,104.3 NMOS
XM$10 VSS HIZ \$I4 VSS NMOS L=1u W=3.4u AS=5.1p AD=5.1p PS=6.4u PD=6.4u
* device instance $11 m0 *1 -13.3,100.3 NMOS
XM$11 \$I4 \$I3 VSS VSS NMOS L=1u W=3.4u AS=5.1p AD=13.26p PS=6.4u PD=11.8u
* device instance $12 m0 *1 -11.6,94.3 NMOS
XM$12 VSS \$I4 \$9 VSS NMOS L=1u W=6.8u AS=13.26p AD=19.04p PS=11.8u PD=19.2u
* device instance $13 m0 *1 13.3,102.5 NMOS
XM$13 \$I5 \$I2 \$I7 VSS NMOS L=1u W=3.4u AS=9.52p AD=2.04p PS=12.4u PD=4.6u
* device instance $14 m0 *1 13.3,100.3 NMOS
XM$14 \$I7 \$I3 VSS VSS NMOS L=1u W=3.4u AS=2.04p AD=13.26p PS=4.6u PD=11.8u
* device instance $15 m0 *1 11.6,94.3 NMOS
XM$15 VSS \$I5 \$10 VSS NMOS L=1u W=6.8u AS=13.26p AD=19.04p PS=11.8u PD=19.2u
* device instance $16 m0 *1 8.5,108.3 NMOS
XM$16 \$I2 HIZ VSS VSS NMOS L=1u W=3.4u AS=9.52p AD=14.96p PS=12.4u PD=15.6u
* device instance $17 m0 *1 -13.2,116.2 DN
D$17 VSS OUT DN A=12.96p P=14.4u
* device instance $18 m0 *1 8.6,116.2 DN
D$18 VSS HIZ DN A=12.96p P=14.4u
* device instance $19 r90 *1 -130,-65.5 PMOS
XM$19 PAD VDD VDD VDD PMOS L=2u W=200u AS=1573.04p AD=1300p PS=311.36u PD=252u
* device instance $23 r90 *1 -130,-5.5 PMOS
XM$23 PAD \$9 VDD VDD PMOS L=2u W=300u AS=1950p AD=2223.04p PS=378u PD=437.36u
* device instance $29 r90 *1 130,-65.5 NMOSE
XM$29 PAD VSS VSS VSS NMOSE L=2u W=350u AS=2648.04p AD=2175p PS=504.36u PD=437u
* device instance $36 r90 *1 130,35.5 NMOSE
XM$36 VSS \$10 PAD VSS NMOSE L=2u W=150u AS=875p AD=1348.04p PS=185u PD=252.36u
.ENDS OSS_ESD_5V_DIO
