* Created by KLayout
*** My special header ***

* cell OSS_FRAME_IO
* pin ENB10
* pin ENB11
* pin ENB12
* pin ENB13
* pin ENB14
* pin ENB3
* pin ENB4
* pin ENB5
* pin ENB6
* pin ENB7
* pin ENB9
* pin OUT10
* pin OUT11
* pin OUT12
* pin OUT13
* pin OUT14
* pin OUT3
* pin OUT4
* pin OUT5
* pin OUT6
* pin OUT7
* pin OUT9
* pin P1
* pin P10
* pin P11
* pin P12
* pin P13
* pin P14
* pin P15
* pin P2
* pin P3
* pin P4
* pin P5
* pin P6
* pin P7
* pin P9
* pin VDD
* pin VSS
.SUBCKT OSS_FRAME_IO ENB10 ENB11 ENB12 ENB13 ENB14 ENB3 ENB4 ENB5 ENB6 ENB7
+ ENB9 OUT10 OUT11 OUT12 OUT13 OUT14 OUT3 OUT4 OUT5 OUT6 OUT7 OUT9 P1 P10 P11
+ P12 P13 P14 P15 P2 P3 P4 P5 P6 P7 P9 VDD VSS
* cell instance $1 m135 *1 1040,600
X$1 P14 VDD ENB14 OUT14 VSS OSS_ESD_5V_DIO
* cell instance $2 r90 *1 1040,200
X$2 P13 VDD OUT13 ENB13 VSS OSS_ESD_5V_DIO
* cell instance $3 m135 *1 1040,-200
X$3 P12 VDD ENB12 OUT12 VSS OSS_ESD_5V_DIO
* cell instance $4 r90 *1 1040,-600
X$4 P11 VDD OUT11 ENB11 VSS OSS_ESD_5V_DIO
* cell instance $5 m45 *1 -1040,-600
X$5 P6 VDD ENB6 OUT6 VSS OSS_ESD_5V_DIO
* cell instance $6 r270 *1 -1040,-200
X$6 P5 VDD OUT5 ENB5 VSS OSS_ESD_5V_DIO
* cell instance $7 m90 *1 600,-1040
X$7 P10 VDD ENB10 OUT10 VSS OSS_ESD_5V_DIO
* cell instance $8 r270 *1 -1040,600
X$8 P3 VDD OUT3 ENB3 VSS OSS_ESD_5V_DIO
* cell instance $9 r0 *1 -600,-1040
X$9 P7 VDD OUT7 ENB7 VSS OSS_ESD_5V_DIO
* cell instance $10 r0 *1 200,-1040
X$10 P9 VDD OUT9 ENB9 VSS OSS_ESD_5V_DIO
* cell instance $11 m45 *1 -1040,200
X$11 P4 VDD ENB4 OUT4 VSS OSS_ESD_5V_DIO
* cell instance $12 r180 *1 -200,1040
X$12 P1 VDD \$28 \$24 VSS OSS_ESD_5V_DIO
* cell instance $13 m0 *1 -600,1040
X$13 P2 VDD \$25 \$27 VSS OSS_ESD_5V_DIO
* cell instance $14 r180 *1 600,1040
X$14 P15 VDD \$26 \$29 VSS OSS_ESD_5V_DIO
* cell instance $19 m0 *1 200,1040
X$19 VDD VSS OSS_ESD_5V_VDD
* cell instance $20 m90 *1 -200,-1040
X$20 VDD VSS OSS_ESD_5V_VSS
.ENDS OSS_FRAME_IO

* cell OSS_ESD_5V_VDD
* pin PAD,VDD
* pin VSS
.SUBCKT OSS_ESD_5V_VDD PAD|VDD VSS
* device instance $1 r270 *1 -130,65.5 PMOS
XM$1 VSS PAD|VDD PAD|VDD PAD|VDD PMOS L=2u W=500u AS=3523.04p AD=3523.04p
+ PS=689.36u PD=689.36u
* device instance $11 r90 *1 130,-65.5 NMOSE
XM$11 PAD|VDD VSS VSS VSS NMOSE L=2u W=500u AS=3523.04p AD=3523.04p PS=689.36u
+ PD=689.36u
.ENDS OSS_ESD_5V_VDD

* cell OSS_ESD_5V_VSS
* pin VDD
* pin PAD,VSS
.SUBCKT OSS_ESD_5V_VSS VDD PAD|VSS
* device instance $1 r90 *1 -130,-65.5 PMOS
XM$1 PAD|VSS VDD VDD VDD PMOS L=2u W=500u AS=3523.04p AD=3523.04p PS=689.36u
+ PD=689.36u
* device instance $11 r270 *1 130,65.5 NMOSE
XM$11 VDD PAD|VSS PAD|VSS PAD|VSS NMOSE L=2u W=500u AS=3523.04p AD=3523.04p
+ PS=689.36u PD=689.36u
.ENDS OSS_ESD_5V_VSS

* cell OSS_ESD_5V_DIO
* pin PAD
* pin VDD
* pin OUT
* pin ENB
* pin VSS
.SUBCKT OSS_ESD_5V_DIO PAD VDD OUT ENB VSS
* device instance $1 m0 *1 34.6,108.3 PMOS
XM$1 \$I4 ENB VDD VDD PMOS L=1u W=5.2u AS=14.56p AD=7.8p PS=16u PD=8.2u
* device instance $2 m0 *1 34.6,104.3 PMOS
XM$2 VDD ENB \$I6 VDD PMOS L=1u W=5.2u AS=7.8p AD=7.8p PS=8.2u PD=8.2u
* device instance $3 m0 *1 34.6,100.3 PMOS
XM$3 \$I6 OUT VDD VDD PMOS L=1u W=5.2u AS=7.8p AD=34.84p PS=8.2u PD=25.8u
* device instance $4 m0 *1 42.4,94.3 PMOS
XM$4 VDD \$I6 \$9 VDD PMOS L=1u W=20.8u AS=34.84p AD=58.24p PS=25.8u PD=47.2u
* device instance $5 m0 *1 -37.2,102.5 PMOS
XM$5 \$I5 \$I4 \$I7 VDD PMOS L=1u W=10.4u AS=29.12p AD=6.24p PS=26.4u PD=11.6u
* device instance $6 m0 *1 -37.2,100.3 PMOS
XM$6 \$I7 OUT VDD VDD PMOS L=1u W=10.4u AS=6.24p AD=40.56p PS=11.6u PD=25.8u
* device instance $7 m0 *1 -42.4,94.3 PMOS
XM$7 VDD \$I5 \$8 VDD PMOS L=1u W=20.8u AS=40.56p AD=58.24p PS=25.8u PD=47.2u
* device instance $8 m0 *1 -13.3,104.3 NMOS
XM$8 VSS \$I4 \$I5 VSS NMOS L=1u W=3.4u AS=9.52p AD=5.1p PS=12.4u PD=6.4u
* device instance $9 m0 *1 -13.3,100.3 NMOS
XM$9 \$I5 OUT VSS VSS NMOS L=1u W=3.4u AS=5.1p AD=13.26p PS=6.4u PD=11.8u
* device instance $10 m0 *1 -11.6,94.3 NMOS
XM$10 VSS \$I5 \$8 VSS NMOS L=1u W=6.8u AS=13.26p AD=19.04p PS=11.8u PD=19.2u
* device instance $11 m0 *1 13.3,102.5 NMOS
XM$11 \$I6 ENB \$I8 VSS NMOS L=1u W=3.4u AS=9.52p AD=2.04p PS=12.4u PD=4.6u
* device instance $12 m0 *1 13.3,100.3 NMOS
XM$12 \$I8 OUT VSS VSS NMOS L=1u W=3.4u AS=2.04p AD=13.26p PS=4.6u PD=11.8u
* device instance $13 m0 *1 11.6,94.3 NMOS
XM$13 VSS \$I6 \$9 VSS NMOS L=1u W=6.8u AS=13.26p AD=19.04p PS=11.8u PD=19.2u
* device instance $14 m0 *1 8.5,108.3 NMOS
XM$14 \$I4 ENB VSS VSS NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
* device instance $15 m0 *1 -48.7,107.3 DP
D$15 OUT VDD DP A=12.96p P=14.4u
* device instance $16 m0 *1 -10.7,114 DN
D$16 VSS ENB DN A=12.96p P=14.4u
* device instance $17 r90 *1 -130,-65.5 PMOS
XM$17 PAD VDD VDD VDD PMOS L=2u W=200u AS=1573.04p AD=1300p PS=311.36u PD=252u
* device instance $21 r90 *1 -130,-5.5 PMOS
XM$21 PAD \$8 VDD VDD PMOS L=2u W=300u AS=1950p AD=2223.04p PS=378u PD=437.36u
* device instance $27 r90 *1 130,-65.5 NMOSE
XM$27 PAD VSS VSS VSS NMOSE L=2u W=300u AS=2223.04p AD=1950p PS=437.36u PD=378u
* device instance $33 r90 *1 130,24.5 NMOSE
XM$33 PAD \$9 VSS VSS NMOSE L=2u W=200u AS=1300p AD=1573.04p PS=252u PD=311.36u
.ENDS OSS_ESD_5V_DIO
