* Created by KLayout
*** My special header ***

* cell DFF
* pin CK
* pin CKB
* pin CKP
* pin D
* pin Q
* pin QB
* pin QM
* pin QS
* pin gnd
* pin vdd
.SUBCKT DFF CK CKB CKP D Q QB QM QS gnd vdd
* device instance $1 r0 *1 59.7,41.8 PMOS
XM$1 vdd QB Q vdd PMOS L=1u W=10.4u AS=29.12p AD=29.12p PS=26.4u PD=26.4u
* device instance $2 r0 *1 4,41.8 PMOS
XM$2 CKB CK vdd vdd PMOS L=1u W=10.4u AS=29.12p AD=15.6p PS=26.4u PD=13.4u
* device instance $3 r0 *1 8,41.8 PMOS
XM$3 vdd CKB CKP vdd PMOS L=1u W=10.4u AS=15.6p AD=29.12p PS=13.4u PD=26.4u
* device instance $4 r0 *1 16,39.2 PMOS
XM$4 vdd D \$14 vdd PMOS L=1u W=5.2u AS=14.56p AD=3.12p PS=16u PD=6.4u
* device instance $5 r0 *1 18.2,39.2 PMOS
XM$5 \$14 CKP \$6 vdd PMOS L=1u W=5.2u AS=3.12p AD=7.8p PS=6.4u PD=8.2u
* device instance $6 r0 *1 22.2,39.2 PMOS
XM$6 \$6 CKB \$7 vdd PMOS L=1u W=5.2u AS=7.8p AD=7.8p PS=8.2u PD=8.2u
* device instance $7 r0 *1 26.2,39.2 PMOS
XM$7 \$7 QM vdd vdd PMOS L=1u W=5.2u AS=7.8p AD=7.8p PS=8.2u PD=8.2u
* device instance $8 r0 *1 30.2,39.2 PMOS
XM$8 vdd \$6 QM vdd PMOS L=1u W=5.2u AS=7.8p AD=7.8p PS=8.2u PD=8.2u
* device instance $9 r0 *1 34.2,39.2 PMOS
XM$9 QM CKB QS vdd PMOS L=1u W=5.2u AS=7.8p AD=7.8p PS=8.2u PD=8.2u
* device instance $10 r0 *1 38.2,39.2 PMOS
XM$10 QS CKP \$9 vdd PMOS L=1u W=5.2u AS=7.8p AD=7.8p PS=8.2u PD=8.2u
* device instance $11 r0 *1 42.2,39.2 PMOS
XM$11 \$9 QB vdd vdd PMOS L=1u W=5.2u AS=7.8p AD=29.38p PS=8.2u PD=18.9u
* device instance $12 r0 *1 51.7,41.8 PMOS
XM$12 vdd QS QB vdd PMOS L=1u W=10.4u AS=29.38p AD=29.12p PS=18.9u PD=26.4u
* device instance $13 r0 *1 16,17.9 NMOS
XM$13 gnd D \$12 gnd NMOS L=1u W=3.4u AS=9.52p AD=2.04p PS=12.4u PD=4.6u
* device instance $14 r0 *1 18.2,17.9 NMOS
XM$14 \$12 CKB \$6 gnd NMOS L=1u W=3.4u AS=2.04p AD=5.1p PS=4.6u PD=6.4u
* device instance $15 r0 *1 22.2,17.9 NMOS
XM$15 \$6 CKP \$7 gnd NMOS L=1u W=3.4u AS=5.1p AD=5.1p PS=6.4u PD=6.4u
* device instance $16 r0 *1 26.2,17.9 NMOS
XM$16 \$7 QM gnd gnd NMOS L=1u W=3.4u AS=5.1p AD=5.1p PS=6.4u PD=6.4u
* device instance $17 r0 *1 30.2,17.9 NMOS
XM$17 gnd \$6 QM gnd NMOS L=1u W=3.4u AS=5.1p AD=5.1p PS=6.4u PD=6.4u
* device instance $18 r0 *1 34.2,17.9 NMOS
XM$18 QM CKP QS gnd NMOS L=1u W=3.4u AS=5.1p AD=5.1p PS=6.4u PD=6.4u
* device instance $19 r0 *1 38.2,17.9 NMOS
XM$19 QS CKB \$9 gnd NMOS L=1u W=3.4u AS=5.1p AD=5.1p PS=6.4u PD=6.4u
* device instance $20 r0 *1 42.2,17.9 NMOS
XM$20 \$9 QB gnd gnd NMOS L=1u W=3.4u AS=5.1p AD=14.45p PS=6.4u PD=11.9u
* device instance $21 r0 *1 51.7,17.9 NMOS
XM$21 gnd QS QB gnd NMOS L=1u W=3.4u AS=14.45p AD=9.52p PS=11.9u PD=12.4u
* device instance $22 r0 *1 59.7,17.9 NMOS
XM$22 gnd QB Q gnd NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
* device instance $23 r0 *1 4,17.9 NMOS
XM$23 CKB CK gnd gnd NMOS L=1u W=3.4u AS=9.52p AD=5.1p PS=12.4u PD=6.4u
* device instance $24 r0 *1 8,17.9 NMOS
XM$24 gnd CKB CKP gnd NMOS L=1u W=3.4u AS=5.1p AD=9.52p PS=6.4u PD=12.4u
.ENDS DFF
